US06747023B1
6-Methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To 6-(t-butoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine (1.05 g), a saturated solution of hydrochloride in ethanol (30 ml) was added at room temperature. After stirring for 2 hours, the reaction mixture was concentrated. The residue thus obtained was suspended in methylene chloride (20 ml), followed by the addition of methanol (20 ml), triethylamine (1.31 ml), acetic acid (810 μl), formaldehyde (a 37% aqueous solution, 610 μl) and sodium triacetoxyborohydride (1.51 g) at room temperature. The resulting mixture was stirred for 1 hour. To the reaction mixture, a saturated aqueous solution (100 ml) of sodium bicarbonate and methylene chloride (20 ml) were added to cause separation. The water layer was extracted with methylene chloride (3×10 ml). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by chromatography on a silica gel column (50 g of silica gel, methylene chloride:acetone=1:1→1:2→methylene chloride:methanol=10:1), whereby the title compound (434 mg) was obtained as a colorless transparent oil.

reactant | 6-(t-butoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 1.05 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C=CO2 | C12H17NO3
reactant | hydrochloride | Cl | ClH
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.51 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 810 μl | C(C)(=O)O | C2H4O2
solvent | triethylamine | 1.31 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 6-Methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | CN1CC2=C(CC1)C=CO2 | C8H11NO
